US09169254B2
Triethylamine (88 μl, 0.632 mmol) and 4-chlorobenzenesulfonyl chloride (70 mg, 0.332 mmol) were added to a mixed solution of 2-(2,4-dichloro-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one dihydrochloride (100 mg, 0.299 mmol) in dichloromethane (3 ml). The reaction solution was stirred at room temperature for 16 hours and then diluted with dichloromethane, and the organic layer was washed with water. The organic layer was dried over sodium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate:hexane) to give 8-(4-chloro-benzenesulfonyl)-2-(2,4-dichloro-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (70.8 mg, 96%).

reactant | Triethylamine | 0.632 mmol, 88 μl | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulfonyl chloride | 0.332 mmol, 70 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 2-(2,4-dichloro-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one dihydrochloride | 0.299 mmol, 100 mg | Cl.Cl.ClC1=C(C=CC(=C1)Cl)C1=NC2(C(N1)=O)CCNCC2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 8-(4-chloro-benzenesulfonyl)-2-(2,4-dichloro-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 70.8 mg, 96% | ClC1=CC=C(C=C1)S(=O)(=O)N1CCC2(C(NC(=N2)C2=C(C=C(C=C2)Cl)Cl)=O)CC1 | C19H16Cl3N3O3S
